US04686224
D1. 1-ethyl-5-benzoyloxindole
In a similar manner were prepared 1-ethyl-5-(4-chlorobenzoyl)oxindole, m.p. 154°-156° C.; 1-ethyl-5-(4-fluorobenzoyl)oxindole, m.p. 110°-120° C.; 1-ethyl-5-(4-methylbenzoyl)oxindole, m.p. 169°-170° C.; 1-ethyl-5-(4-cyanobenzoyl)oxindole, m.p. 163°-168° C.

reactant | 1-ethyl-5-(4-chlorobenzoyl)oxindole | C(C)N1C(CC2=CC(=CC=C12)C(C1=CC=C(C=C1)Cl)=O)=O | C17H14ClNO2
reactant | 1-ethyl-5-(4-fluorobenzoyl)oxindole | C(C)N1C(CC2=CC(=CC=C12)C(C1=CC=C(C=C1)F)=O)=O | C17H14FNO2
reactant | 1-ethyl-5-(4-methylbenzoyl)oxindole | C(C)N1C(CC2=CC(=CC=C12)C(C1=CC=C(C=C1)C)=O)=O | C18H17NO2
reactant | 1-ethyl-5-(4-cyanobenzoyl)oxindole | C(C)N1C(CC2=CC(=CC=C12)C(C1=CC=C(C=C1)C#N)=O)=O | C18H14N2O2
product | 1-ethyl-5-benzoyloxindole | C(C)N1C(CC2=CC(=CC=C12)C(C1=CC=CC=C1)=O)=O | C17H15NO2
